US07977362B2
To a suspension of trans-2-aminocyclohexylmethanol hydrochloride (214 mg, 1.30 mmol) and triethylamine (0.538 mL, 3.9 mmol) in 5 mL dichloromethane at 0° C. was added a solution of 5-chlorothiophene-2-sulfonyl chloride (0.267 mL, 1.23 mmol) in 1 mL dichloromethane. The reaction was stirred at 0° C. for 30 min and at room temperature for 30 min. The crude reaction mixture was purified by flash chromatography on silica gel using a gradient of 0 to 100% ethyl acetate in hexane to give 5-chloro-N-(trans-2-(hydroxymethyl)cyclohexyl)thiophene-2-sulfonamide (330 mg, 84%). 1H NMR (400 MHz, CDCl3) δ ppm 7.40 (d, J=4.03 Hz, 1H), 6.91 (d, J=4.03 Hz, 1H), 5.24 (d, J=7.30 Hz, 1H), 3.86 (d, J=11.33 Hz, 1H), 3.32-3.48 (m, 1H), 3.05 (d, J=6.55 Hz, 1H), 2.32 (br. s., 1H), 1.72-1.83 (m, 1H), 1.58-1.73 (m, 3H), 1.11-1.36 (m, 5H). MS [M+H]+=310; [M+Na]+=332.

reactant | trans-2-aminocyclohexylmethanol hydrochloride | 1.30 mmol, 214 mg | Cl.N[C@H]1[C@@H](CCCC1)CO
reactant | triethylamine | 3.9 mmol, 0.538 mL | C(C)N(CC)CC | C6H15N
reactant | 5-chlorothiophene-2-sulfonyl chloride | 1.23 mmol, 0.267 mL | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 5-chloro-N-(trans-2-(hydroxymethyl)cyclohexyl)thiophene-2-sulfonamide | 330 mg, 84% | ClC1=CC=C(S1)S(=O)(=O)N[C@H]1[C@@H](CCCC1)CO | C11H16ClNO3S2
